US06103910
a) (R)-1-[[4-[2-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-2,5-dihydroxy-phenyl]-acetyl]-pyrrolidine-2-carboxylic acid benzyl ester
Using General Procedure A with 10.7 g (44.2 mmol) D-Proline benzyl ester hydrochloride and 5.0 g (22.1 mmol) 2,5-dihydroxy-1,4-phenylenediacetic acid afforded, after flash chromatography (gradient: 70-100% EtOAc/hexane), 3.17 g (24%) of the title compound as a colorless foam.

reactant | D-Proline benzyl ester hydrochloride | 44.2 mmol, 10.7 g | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | 2,5-dihydroxy-1,4-phenylenediacetic acid | 22.1 mmol, 5.0 g | OC1=C(C=C(C(=C1)CC(=O)O)O)CC(=O)O | C10H10O6
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | (R)-1-[[4-[2-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-2,5-dihydroxy-phenyl]-acetyl]-pyrrolidine-2-carboxylic acid benzyl ester | 3.17 g, 24% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CC1=C(C=C(C(=C1)O)CC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)O)=O | C34H36N2O8
